US04331670
Preparation of N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2,4-dinitro-3-methoxy-6-trifluoromethylaniline
In accordance with the process of Preparation 8 except using 1.9 g. of 2-amino-3-chloro-5-trifluoromethylpyridine and 2.8 g. of 2,4-dinitro-3-methoxy-6-trifluoromethylchlorobenzene, the reaction was carried out for 3 hours. The reaction mixture was treated as the process of Preparation 6 to obtain 1.4 g. of the object oily compound.

reactant | 2-amino-3-chloro-5-trifluoromethylpyridine | NC1=NC=C(C=C1Cl)C(F)(F)F | C6H4ClF3N2
reactant | 2,4-dinitro-3-methoxy-6-trifluoromethylchlorobenzene | [N+](=O)([O-])C1=C(C(=CC(=C1OC)[N+](=O)[O-])C(F)(F)F)Cl | C8H4ClF3N2O5
product | N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2,4-dinitro-3-methoxy-6-trifluoromethylaniline | ClC=1C(=NC=C(C1)C(F)(F)F)NC1=C(C(=C(C=C1C(F)(F)F)[N+](=O)[O-])OC)[N+](=O)[O-] | C14H7ClF6N4O5
